US05232852
1.42 g (4.74 mmol) of {(R)-2,2,4-trimethyl-1,3-dioxolan-4-yl}methyl tosylate are evaporated twice from 100 ml of methanol in the presence of a catalytic amount of p-toluenesulfonic acid at 16 mbar/40° C. and the residue is finally purified by chromatography over silica gel 60 (0.040-0.063 mm, 20 g) using methylene chloride/diethyl ether (1:1) as the eluent. There are obtained 907 mg (3.49 mmol, 74% of the theoretical yield) of (R)-2,3-dihydroxy-2-methylpropyl tosylate, 99% pure by gas chromatography, [α]365 =-19.0° (1% in CHCl3).

reactant | {(R)-2,2,4-trimethyl-1,3-dioxolan-4-yl}methyl tosylate | 4.74 mmol, 1.42 g | S(=O)(=O)(OC[C@@]1(OC(OC1)(C)C)C)C1=CC=C(C)C=C1 | C14H20O5S
reactant | methanol | 100 ml | CO | CH4O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (R)-2,3-dihydroxy-2-methylpropyl tosylate | S(=O)(=O)(OC[C@](CO)(C)O)C1=CC=C(C)C=C1 | C11H16O5S
